US08859591B2
To a mixture of methyl 3-(4-(2-cyclopropyl-1-(4-(4-(trifluoromethyl)-1H-pyrazol-1-yl)phenoxy)ethyl)benzamido)propanoate (92 mg, 0.18 mmol) in methanol (0.9 mL) and water (0.2 mL) was added lithium hydroxide monohydrate (38.4 mg, 0.92 mmol). The resulting mixture was stirred at room temperature overnight. The reaction mixture was poured into water and acidified with 1N hydrochloric acid to pH=6. The mixture was extracted with dichloromethane. The organic layer was dried over sodium sulfate, filtered, and concentrated. Purification by column chromatography gave (+/−)-3-(4-(2-cyclopropyl-1-(4-(4-(trifluoromethyl)-1H-pyrazol-1-yl)phenoxy)ethyl)benzamido)propanoic acid (52 mg, 59%). 1HNMR (400 MHz, CD3OD, δ): 8.47 (s, 1H), 7.82 (s, 1H), 7.70 (d, 2H), 7.50 (d, 2H), 7.42 (d, 2H), 6.92 (d, 2H), 5.34 (m, 1H), 3.53 (m, 2H), 2.48 (m, 2H), 1.98-1.94 (m, 1H), 1.60-1.58 (m, 1H), 0.75-0.77 (m, 1H), 0.42-0.33 (m, 2H), 0.08-0.01 (m, 2H). MS (M+Na): 510.3.

reactant | methyl 3-(4-(2-cyclopropyl-1-(4-(4-(trifluoromethyl)-1H-pyrazol-1-yl)phenoxy)ethyl)benzamido)propanoate | 0.18 mmol, 92 mg | C1(CC1)CC(OC1=CC=C(C=C1)N1N=CC(=C1)C(F)(F)F)C1=CC=C(C(=O)NCCC(=O)OC)C=C1 | C26H26F3N3O4
reactant | lithium hydroxide monohydrate | 0.92 mmol, 38.4 mg | O.[OH-].[Li+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 0.9 mL | CO | CH4O
solvent | water | 0.2 mL | O | H2O
product | (+/−)-3-(4-(2-cyclopropyl-1-(4-(4-(trifluoromethyl)-1H-pyrazol-1-yl)phenoxy)ethyl)benzamido)propanoic acid | 52 mg, 59% | C1(CC1)CC(OC1=CC=C(C=C1)N1N=CC(=C1)C(F)(F)F)C1=CC=C(C(=O)NCCC(=O)O)C=C1 | C25H24F3N3O4
